US04681875
From 750 mg of 16α-(tert-butyldimethylsilyloxy)-1,3,5(10)-estratriene-3,17β-diol, using caproic anhydride, 1.08 g of 16α-(tert-butyldimethylsilyloxy)-3,17β-dihexanoyloxy-1,3,5(10)-estratriene is obtained under the reaction conditions described in Example 3(a).

reactant | 16α-(tert-butyldimethylsilyloxy)-1,3,5(10)-estratriene-3,17β-diol | 750 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)O)O | C24H38O3Si
reactant | caproic anhydride | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
product | 16α-(tert-butyldimethylsilyloxy)-3,17β-dihexanoyloxy-1,3,5(10)-estratriene | 1.08 g | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC(CCCCC)=O)OC(CCCCC)=O | C36H58O5Si
